US06774138B2
2-Bromo-1,3-thiazole (6.0 g, 37 mmol) and CuI (1.3 g, 7.3 mmol) were combined in DME (150 mL) and argon gas was bubbled through the suspension for several minutes to deoxygenate the mixture. Triethylamine (25 mL, 180 mmol) and PdCl2(PPh3)2 (2.5 g, 3.7 mmol) were added and 2-methyl-3-butyne-2-ol (4.6 g, 55 mmol) was added dropwise. After stirring at ambient temperature for 16 h, GC/MS showed the reaction was not complete. The reaction was heated to reflux for 2 h. The mixture was filtered through Celite™, the filter pad was washed thoroughly with ethyl acetate, and the combined filtrates were concentrated in vacuo. The residue was dissolved in ethyl acetate (600 mL), washed with water (600 mL), brine (600 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by column chromatography eluting with hexane then 7:3 hexane:ethyl acetate to afford 4-(2-thiazolyl)-2-methyl-3-butyn-2-ol contaminated with 2,7-dimethyl-but-3,5-diyne-2,7-diol. (The dimer of 2-methyl-3-butyne-2-ol) The product was crystallized from boiling hexane to afford 2-methyl-4-(1,3-thiazol-2-yl)-3-butyn-2-ol (2.18 g, 36% yield) as off white crystals that were contaminated with a small amount of 2,7-dimethyl-but-3,5-diyne-2,7-diol. M.p. 69-70° C. 1H NMR (CDCl3, 300 MHz) δ 7.80 (d, J=3.0 Hz, 1H), 7.34 (d, J=3.0 Hz, 1H), 4.40 (s, 1H), 1.65 (s, 6H). MS (ESI) 168.1 (M++H).

reactant | 2-Bromo-1,3-thiazole | 37 mmol, 6.0 g | BrC=1SC=CN1 | C3H2BrNS
reactant | Triethylamine | 180 mmol, 25 mL | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-3-butyne-2-ol | 55 mmol, 4.6 g | CC(C)(C#C)O | C5H8O
solvent | DME | 150 mL | COCCOC | C4H10O2
catalyst | CuI | 7.3 mmol, 1.3 g | [Cu]I
catalyst | PdCl2(PPh3)2 | 3.7 mmol, 2.5 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(2-thiazolyl)-2-methyl-3-butyn-2-ol | S1C(=NC=C1)C#CC(C)(O)C | C8H9NOS
